US07741352B2
N-(2,4-Dihydroxyphenyl)-2,2,2-trifluoro-acetamide
To a solution of N-(2,4-dimethoxy phenyl)-2,2,2-trifluoro-acetamide (2.50 g; 10 mmol) in CH2Cl2 (20 mL) cooled to −10° C. was added 1 M BBr3 (CH2Cl2; 24 mL; 24 mmol) under N2 atmosphere. The mixture was allowed to warm to room temperature over 2 hours and poured onto H2O (150 mL). Saturated aqueous NaHCO3 (100 mL) and diethylether (100 mL) was added to dissolve any precipitated material. The organic layer was Isolated, washed with H2O (50 mL), dried (MgSO4), filtered and the eluate evaporated to dryness to yield 1.85 g (83%) of the desired compound as a greyish solid.

reactant | N-(2,4-dimethoxy phenyl)-2,2,2-trifluoro-acetamide | 10 mmol, 2.50 g | COC1=C(C=CC(=C1)OC)NC(C(F)(F)F)=O | C10H10F3NO3
reactant | BBr3 | 24 mmol, 1 M, 24 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4-Dihydroxyphenyl)-2,2,2-trifluoro-acetamide | 1.85 g, 83% | OC1=C(C=CC(=C1)O)NC(C(F)(F)F)=O | C8H6F3NO3
